US04959094
N-(2-Difluoromethoxy-6-methylphenyl)-1-(4-chloro-6-methoxypyrimidin-2-yl)-1H-1,2,4-triazole-3-sulphonamide
1.8 g (6 mmol) N-(2-Difluoromethoxy-6-methylphenyl)-1H-1,2,4-triazole-3-sulphonamide in 10 ml dimethylformamide was stirred with 1.68 g (12 mmol) potassium carbonate for 10 minutes at 50° C. It was then cooled to 10° C. and treated with 1.33 g (6 mmol) 4-chloro-6-methoxy-2-methylsulphonylpyrimidine and the mixture stirred for 45 minutes at 10° C. It was then added to ice-water, acidified to pH 4 with sulphuric acid and the solid collected and purified by silica gel chromatography using a mixture of methylene chloride and methanol (95/5).

reactant | N-(2-Difluoromethoxy-6-methylphenyl)-1H-1,2,4-triazole-3-sulphonamide | 6 mmol, 1.8 g | FC(OC1=C(C(=CC=C1)C)NS(=O)(=O)C1=NNC=N1)F | C10H10F2N4O3S
reactant | potassium carbonate | 12 mmol, 1.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-6-methoxy-2-methylsulphonylpyrimidine | 6 mmol, 1.33 g | ClC1=NC(=NC(=C1)OC)S(=O)(=O)C | C6H7ClN2O3S
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-Difluoromethoxy-6-methylphenyl)-1-(4-chloro-6-methoxypyrimidin-2-yl)-1H-1,2,4-triazole-3-sulphonamide | FC(OC1=C(C(=CC=C1)C)NS(=O)(=O)C1=NN(C=N1)C1=NC(=CC(=N1)Cl)OC)F | C15H13ClF2N6O4S
